US04101579
5-(N-Benzyl-N-tert.butylglycyl)-o-anisic acid, methyl ester, hydrochloride (4.05g) in ethanol (60 ml) was added to a pre-reduced suspension of 10% Pd/C (1.0g) in ethanol (15 ml) and hydrogenated until uptake ceased (hydrogen uptake was 441.cc). The catalyst was filtered off and the filtrate evaporated to dryness to afford 5-(2-tert.butylamino-1-hydroxyethyl)-o-anisic acid, methyl ester, hydrochloride as a white crystalline solid (2.9g) m.p. 189°-194° .

reactant | 5-(N-Benzyl-N-tert.butylglycyl)-o-anisic acid, methyl ester, hydrochloride | 4.05g | Cl.C(C1=CC=CC=C1)N(CC(=O)C1=CC=C(C(C(=O)OC)=C1)OC)C(C)(C)C
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | ethanol | 15 ml | C(C)O | C2H6O
catalyst | Pd/C | 1.0g | [Pd] | Pd
product | 5-(2-tert.butylamino-1-hydroxyethyl)-o-anisic acid, methyl ester, hydrochloride | 2.9g | Cl.C(C)(C)(C)NCC(O)C1=CC=C(C(C(=O)OC)=C1)OC | InChI=1S/C15H23NO4.ClH/c1-15(2,3)16-9-12(17)10-6-7-13(19-4)11(8-10)14(18)20-5;/h6-8,12,16-17H,9H2,1-5H3;1H
